US09353107B2
Step-iii 3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (100 mg, 0.176 mmol) was deprotected in TFA/methanol (3/3 ml). This afforded 5 mg (152% yield) of the titled compound after purification by preparative HPLC along with one more isomer Example 91. 1H NMR (CD3OD, 300 MHz): δ 8.51 (s, 1H), 8.24 (s, 1H), 7.80 (s, 1H), 7.72-7.67 (m, 2H), 7.51 (s, 1H), 7.42-7.34 (m, 3H), 7.06-6.87 (m, 3H), 5.46 (s, 2H), 3.61-3.51 (m, 2H), 3.21-3.13 (m, 2H), 3.02-2.94 (t, 1H), 2.37 (s, 3H), 2.15-2.11 (m, 2H), 2.02-1.89 (m, 2H). MS: m/z=466.2 (M+1), HPLC: 89.39% in method B.

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.176 mmol, 100 mg | FC=1C=C(CN2N=C(C(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C34H36FN5O2
solvent | TFA methanol | 3 ml | C(=O)(C(F)(F)F)O.CO
product | 3-(1-(3-fluorobenzyl)-3-methyl-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 5 mg, 152% yield | FC=1C=C(CN2N=C(C(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C3CCNCC3)C)C=CC1 | C29H28FN5
